US06248755B1
Step A: 1-(1-Benzylpiperidin-4-yl)-4-(4-t-butoxyphenyl)butane-1,3-dione
The title compound was prepared using a procedure similar to that described in Example 13 Step C from 1-benzyl-4-acetylpiperidine and methyl 4-t-butoxyphenylacetate in 87% yield. 1H NMR (500 MHz) δ 7.30˜7.35 (m, 4H), 7.24˜7.29 (m, 1H), 7.12˜7.15 (m, 2H), 6.95˜6.97 (m, 2H), 3.57 (s, 2H), 3.50 (s, 2H), 2.91˜2.95 (m, 2H), 2.15 (tt, 3.9 & 11.8 Hz, 1H), 1.95˜2.01 (m, 2H), 1.75˜1.80 (m, 2H), 1.63˜1.72 (m, 2H), 1.36 (s, 9H).

reactant | 1-benzyl-4-acetylpiperidine | C(C1=CC=CC=C1)N1CCC(CC1)C(C)=O | C14H19NO
reactant | methyl 4-t-butoxyphenylacetate | C(C)(C)(C)OC1=CC=C(C=C1)CC(=O)OC | C13H18O3
product | 1-(1-Benzylpiperidin-4-yl)-4-(4-t-butoxyphenyl)butane-1,3-dione | 87% yield | C(C1=CC=CC=C1)N1CCC(CC1)C(CC(CC1=CC=C(C=C1)OC(C)(C)C)=O)=O | C26H33NO3
